US07727979B2
Guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid
A suspension of 2-guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester (5 mmol) and sodium hydroxide (20 mmol) in methanol/water (4:1, 10 ml) is stirred overnight at room temperature. The pH is set at 5 by adding 25% hydrochloric acid and the precipitated product is filtered off. In this way the title compound is obtained (671 mg) in a yield of 56%: tR 0.64 min (LC-1); ESI-MS (+/−): m/z 241.49 [M+H]+/239.37 [M−H]−.

reactant | 2-guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester | 5 mmol | C(C)OC(=O)C1CCCC2=C1N=C(S2)NC(=N)N | C11H16N4O2S
reactant | sodium hydroxide | 20 mmol | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol water | 10 ml | CO.O
product | Guanidino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid | yield of 56% | N(C(=N)N)C=1SC2=C(N1)C(CCC2)C(=O)O | C9H12N4O2S
